US09302988B2
To a stirred solution of SC-187 (31 mg, 0.276 mmol) in dry MeOH (3 mL) was added CoCl2 (54 4, 1.382 mmol) under an inert atmosphere. NaBH4 (199 mg, 5.25 mmol) was added in three equal portions under a nitrogen atmosphere at −5° C. The grey reaction mixture was stirred at room temperature during 30 min. and quenched with ice (20 mL) and aqueous 0.5 M KHSO4 (20 mL). DCM (10 mL) was added and both layers were filtered over Celite. The aqueous layer was extracted twice with DCM (10 mL). The combined organic layers were washed with brine (20 mL), dried (Na2SO4), filtered and concentrated in vacuo. Purification was performed by flash chromatography (silica, CH2Cl2/MeOH, 9:1). The appropriate fractions were combined and solvents removed in vacuo. This product was combined with the crude batch from a previous experiment performed under the same reaction conditions. In this previous experiment SC-187 (14 mg, 0.023 mmol, purity: 76%), MeOH (1 mL), CoCl2 (5.72 μL, 0.148 mmol) and NaBH4 (21.2 mg, 0.561 mmol) were used. Further purification was performed by flash chromatography (silica, DCM/MeOH/Et3N, 9:1:0.1). The appropriate fractions were combined and solvents removed in vacuo. Concentration in vacuo gave SC-188 (67 mg, 46%) as a green oil.

reactant | 1-Benzyl-3-(4-chlorophenyl)-N-(2-cyano-2-methyl-propyl)-N-methyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxylic acid amide | 0.276 mmol, 31 mg | C(C1=CC=CC=C1)N1C(=C(C=C1C(F)(F)F)C1=CC=C(C=C1)Cl)C(=O)N(C)CC(C)(C)C#N | C25H23ClF3N3O
reactant | NaBH4 | 5.25 mmol, 199 mg | [BH4-].[Na+]
reactant | 1-Benzyl-3-(4-chlorophenyl)-N-(2-cyano-2-methyl-propyl)-N-methyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxylic acid amide | 0.023 mmol, 14 mg | C(C1=CC=CC=C1)N1C(=C(C=C1C(F)(F)F)C1=CC=C(C=C1)Cl)C(=O)N(C)CC(C)(C)C#N | C25H23ClF3N3O
reactant | NaBH4 | 0.561 mmol, 21.2 mg | [BH4-].[Na+]
solvent | MeOH | 3 mL | CO | CH4O
solvent | MeOH | 1 mL | CO | CH4O
product | N-(3-Amino-2,2-dimethyl-propyl)-1-benzyl-3-(4-chlorophenyl)-N-methyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxylic acid amide | 67 mg, 46% | NCC(CN(C(=O)C=1N(C(=CC1C1=CC=C(C=C1)Cl)C(F)(F)F)CC1=CC=CC=C1)C)(C)C | C25H27ClF3N3O
